US05424280
Preparation of {o-{5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetic acid
Sodium hydroxide solution (10 mL of a one normal solution, 0.01 mol) is added to a solution of methyl {o-{5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetate (5.25 g, 0.01 mol) in methanol. The reaction mixture is stirred for three hours, concentrated in vacuo and dissolved in water. The aqueous solution is adjusted to pH 3 with 2.5N hydrochloric acid and extracted with methylene chloride. The organic extract is washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a white solid (2 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | methyl {o-{5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetate | 0.01 mol, 5.25 g | ClC1=C(C(=CC(=C1)OC=1C=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)[N+](=O)[O-])F)C(F)(F)F | C22H14ClF4NO7
solvent | methanol | CO | CH4O
product | {o-{5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}acetic acid | 2 g | ClC1=C(C(=CC(=C1)OC=1C=CC(=C(OC2=C(OCC(=O)O)C=CC=C2)C1)[N+](=O)[O-])F)C(F)(F)F | C21H12ClF4NO7
